US06022883
In analogy with Example 2, reacting guanidine with methyl 3-methylsulfonyl-4-(6-methyl-3-pyridyloxy)benzoate [obtainable by reacting 3-methylsulfonyl-4-chlorobenzoic acid with 6-methyl-3-trimethylsilyloxypyridine and subsequently esterifying the product with methyl iodide/K2CO3 in DMF] gives N-diaminomethylene-3-methylsulfonyl-4-(6-methyl-3-pyridyloxy)benzamide, m.p. 197-199°.

reactant | guanidine | NC(=N)N | CH5N3
reactant | methyl 3-methylsulfonyl-4-(6-methyl-3-pyridyloxy)benzoate | CS(=O)(=O)C=1C=C(C(=O)OC)C=CC1OC=1C=NC(=CC1)C | C15H15NO5S
reactant | 3-methylsulfonyl-4-chlorobenzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C8H7ClO4S
reactant | 6-methyl-3-trimethylsilyloxypyridine | CC1=CC=C(C=N1)O[Si](C)(C)C | C9H15NOSi
reactant | methyl iodide K2CO3 | CI.C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-diaminomethylene-3-methylsulfonyl-4-(6-methyl-3-pyridyloxy)benzamide | NC(=NC(C1=CC(=C(C=C1)OC=1C=NC(=CC1)C)S(=O)(=O)C)=O)N | C15H16N4O4S
